US06265575B1
Part A. 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 6-Chloro-pyrid-3-yl Ketone
By essentially following the procedure detailed in Example 1, Part C, the title compound was prepared from 6-chloronicotinic acid and 2-(4-methoxyphenyl)benzo[b]thiophene (Example 3, Part A) in 31% yield as a yellow solid following flash chromatography (SiO2; CH2Cl2).

reactant | 6-chloronicotinic acid | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 2-(4-methoxyphenyl)benzo[b]thiophene | COC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C15H12OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 6-Chloro-pyrid-3-yl Ketone | 31% yield | ClC1=CC=C(C=N1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C21H14ClNO2S
